US07393868B2
Add zinc cyanide (1.5 g, 12.77 mmol), palladium tetrakis (675 mg, 0.584 mmol), to 3-amino-4-bromo-benzoic acid methyl ester (1.328 g, 5.77 mmol) in anhydrous DMF (3 ml). Purge with nitrogen for few minutes and keep under nitrogen atmosphere while heating to 120° C. overnight. Cool the mixture to room temperature and add water. Extract the product with EtOAc (×2). Wash the combined organic layers with 2N ammonium hydroxide solution (×2), water (×2), saturated aq. sodium chloride and dry over anhydrous sodium sulfate, filter and concentrate to yield the crude product. Purification by flash chromatography (Silica gel-hexane/EtOAc) yields 3-amino-4-cyano-benzoic acid methyl ester (94%).

reactant | 3-amino-4-bromo-benzoic acid methyl ester | 5.77 mmol, 1.328 g | COC(C1=CC(=C(C=C1)Br)N)=O | C8H8BrNO2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 12.77 mmol, 1.5 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium tetrakis | 0.584 mmol, 675 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-4-cyano-benzoic acid methyl ester | 94% | COC(C1=CC(=C(C=C1)C#N)N)=O | C9H8N2O2
